US09238656B2
Synthesis of (1S,2S,3R,4S)-3-{2-[4-(4-Acetyl-piperazin-1-ylmethyl)-2-methoxyphenyl]-6-chloro-3H-imidazo[4,5-b]pyridine-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LI)
(1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-piperazin-1-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XLII) (254 mg, 0.5 mmol) was dissolved in anhydrous dichloromethane (10 mL) and treated with acetic anhydride (1 mL, 10.0 mmol) and triethylamine (1.0 mL, 7.2 mmol) for one hour at ambient temperature. The reaction was concentrated and the product was purified by reverse phase chromatography (Gilson) to afford following neutralization of desired fractions a pale yellow solid as the title compound (91 mg, 30%). Mp 109-113° C. 1H NMR (d-chloroform): 11.12 (br s, 1H), 8.34 (d, J=7 Hz, 1H), 7.99 (s, 1H), 7.11 (m, 2H), 6.37 (m, 3H), 5.72 (d, J=7 Hz, 1H), 5.36 (m, 1H), 5.22 (t, J=8 Hz, 1H), 4.10 (s, 3H), 3.66 (m, 2H), 3.59 (s, 2H), 3.50 (m, 2H), 3.17 (s 1H), 2.92 (s, 1H), 2.85 (d, J=7 Hz, 1H), 2.48 (m, 4H), 2.34 (d, J=8 Hz, 1H), 2.10 (s, 3H), 1.73 (d, J=7 Hz, 1H). MS: 550.2 (M+H). HPLC retention time: 1.70 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-piperazin-1-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.5 mmol, 254 mg | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)CN2CCNCC2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C26H30ClN7O2
reactant | acetic anhydride | 10.0 mmol, 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1S,2S,3R,4S)-3-{2-[4-(4-Acetyl-piperazin-1-ylmethyl)-2-methoxyphenyl]-6-chloro-3H-imidazo[4,5-b]pyridine-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 91 mg, 30% | C(C)(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C1=NC=2C(=NC=C(C2N[C@H]2[C@H]([C@@H]3C=C[C@@H]2C3)C(=O)N)Cl)N1)OC | C28H32ClN7O3
